US07053249B2
Synthesis of 1-phenyl-3-naphthyl-1,3-propanedione (2):
9.5 gr of 50% slurry of sodium amide was suspended in 100 ml of anhydrous ether in a 250 ml round bottom flask that was equipped with a magnetic stir bar and a condenser. To this suspension was added 10.2 gr of solid acetonaphthone and continued stirring for 5 min at room temperature. After 5 minutes, 8.16 gr of methylbenzoate was added in one lot as a neat liquid. At this point, the reaction flask was transferred to an oil bath and the bath temperature was raised so that the contents reflux gently in ether for 3 hours. The contents were then poured onto 300 gr of solid ice and the pH was adjusted to 7.0 with conc. HCl while stirring. The ether layer was separated and the aqueous layer was extracted with 150 ml aliquots of ether twice. Combined ether layers were dried over a bed of anhydrous sodium sulfate and concentrated on rotavapor to about 100 ml and let it sit at RT. The recrystallized solid was filtered, washed with ether and dried to obtain 10.6 gr of solid diketone.

reactant | sodium amide | [NH2-].[Na+]
reactant | acetonaphthone | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | methylbenzoate | 8.16 gr | COC(C1=CC=CC=C1)=O | C8H8O2
reactant | HCl | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-phenyl-3-naphthyl-1,3-propanedione | 10.6 gr | C1(=CC=CC=C1)C(CC(=O)C1=CC=CC2=CC=CC=C12)=O | C19H14O2
